US04692524
6.8 g (0.036 mole) of 4-chloro-6-hydroxy-2-methylthiopyrimidine are suspended in 25 ml 50% potassium hydroxide solution, 25 ml of water and 100 ml of dioxane. After the addition of 0.5 g of 18-crown-6, the reaction mixture is heated to 40° C., and 10 g of chlorodifluoromethane are subsequently introduced over 3 hours. The mixture is then cooled to room temperature, the phases are separated and the organic phase is evaporated to dryness. The residue is crystallised from methanol/water, affording 6.9 g (84.4% of theory) of 4-chloro-6-difluoromethoxy-2-methylthiopyrimidine with a melting point of 36°-37° C. The substance has a boiling point of 76°-78° C. at 0.15 mbar.

reactant | 4-chloro-6-hydroxy-2-methylthiopyrimidine | 0.036 mole, 6.8 g | ClC1=NC(=NC(=C1)O)SC | C5H5ClN2OS
reactant | water | 25 ml | O | H2O
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
reactant | chlorodifluoromethane | 10 g | ClC(F)F | CHClF2
solvent | potassium hydroxide | 25 ml | [OH-].[K+]
catalyst | 18-crown-6 | 0.5 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 4-chloro-6-difluoromethoxy-2-methylthiopyrimidine | 6.9 g, 84.4% | ClC1=NC(=NC(=C1)OC(F)F)SC | C6H5ClF2N2OS
